US04270946
Preparation of 2-(3-trifluoromethylphenoxy)N-(3-nitrophenyl) nicotinamide (Compound 3)
A solution of 1.5 grams (0.011 mole) 3-nitroaniline and 1.0 gram (0.011 mole) triethylamine in 100 milliliters toluene was placed in a flask. There was slowly added, with stirring, a solution of 3.2 grams (0.011 mole) 2-(3-trifluoromethylphenoxy) nicotinoyl chloride in 25 milliliters toluene. The rate of addition was controlled so as to maintain the temperature below 35° C. After the addition was complete the mixture was stirred at 45° C. for one hour, cooled, poured into 100 milliliters toluene, and washed with two 150-milliliter portions of water. The organic phase was separated, dried with magnesium sulfate, filtered and the solvent removed to produce 3.3 grams (73.3% of theoretical yield) of the desired product, m.p. 90°-95° C. The structure was confirmed by mass spectrometry.

reactant | 3-nitroaniline | 0.011 mole, 1.5 grams | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 0.011 mole, 1.0 gram | C(C)N(CC)CC | C6H15N
reactant | 2-(3-trifluoromethylphenoxy) nicotinoyl chloride | 0.011 mole, 3.2 grams | FC(C=1C=C(OC2=C(C(=O)Cl)C=CC=N2)C=CC1)(F)F | C13H7ClF3NO2
solvent | toluene | 100 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 milliliters | C1(=CC=CC=C1)C | C7H8
product | 2-(3-trifluoromethylphenoxy)N-(3-nitrophenyl) nicotinamide | FC(C=1C=C(OC2=C(C(=O)NC3=CC(=CC=C3)[N+](=O)[O-])C=CC=N2)C=CC1)(F)F | C19H12F3N3O4
